US09034866B2
10-bromo-3-cyclopropyl-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-methylbut-3-yne-1,2-diol via General Procedure E to yield 21 mg (50%) of (±)-3-cyclopropyl-10-(3,4-dihydroxy-3-methyl-but-1-ynyl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide.

reactant | 10-bromo-3-cyclopropyl-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3CC3)C1)F | C15H13BrFN3O2
reactant | 2-methylbut-3-yne-1,2-diol | CC(CO)(C#C)O | C5H8O2
product | (±)-3-cyclopropyl-10-(3,4-dihydroxy-3-methyl-but-1-ynyl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 21 mg, 50% | C1(CC1)C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#CC(CO)(C)O)C(=O)N | C20H20FN3O4
